US05587510
(3) Synthesis of (Z)-2-benzylidene-3-chloropropionic acid
Into a 500-ml pressure bottle were charged 40 g (0.19 mol) of methyl (Z)-2-benzylidene-3-chloropropionate, 150 ml of a 35% hydrochloric acid and 50 ml of acetic acid. The reaction mixture was then heated to a temperature of 100° C. with stirring overnight. After the completion of the reaction, the reaction solution was then poured into ice water. The reaction solution was then extracted with 200 ml of ethyl acetate. The resulting organic phase was washed with saturated brine, and then dried over magnesium sulfate. The solvent was then distilled off under reduced pressure. The resulting crude crystal was then recrystallized from a mixture of acetone and toluene to obtain 27.3 g (yield: 73%) of the desired compound in the form of colorless crystal. For the measurement of purity, the product was silylated with N,O-bis(trimethylsilyl)acetamide for gas chromatography. The result was 100%.

reactant | methyl (Z)-2-benzylidene-3-chloropropionate | 0.19 mol, 40 g | C(/C1=CC=CC=C1)=C(\C(=O)OC)/CCl | C11H11ClO2
reactant | hydrochloric acid | Cl | ClH
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | (Z)-2-benzylidene-3-chloropropionic acid | 27.3 g, yield: 73% | C(/C1=CC=CC=C1)=C(\C(=O)O)/CCl | C10H9ClO2
